US08859553B2
5-(2-(2-Chloro-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)-N-cyclopropylpyrimidin-2-amine
The title compound was synthesized from N-cyclopropyl-5-ethynylpyrimidin-2-amine and 2-(4-chloro-3-iodophenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole in a manner similar to that described for in Example 1. The title compound was obtained as a brown solid. Mp: 160-162° C.; 1H NMR (300 MHz, CDCl3) δ: 8.43-8.45 (2H, d, J=6.0 Hz), 8.12-8.15 (1H, d, J=6.0 Hz), 7.58-7.60 (1H, d, J=6.0 Hz), 7.52 (1H, s), 7.45-7.47 (1H, d, J=6.0 Hz), 7.38-7.40 (1H, d, J=6.0 Hz), 7.15-7.17 (1H, d, J=6.0 Hz), 5.80 (1H, s), 3.60 (2H, s), 2.80 (8H, brs), 2.59 (3H, s), 1.35-1.39 (1H, m), 0.82-0.88 (2H, m), 0.58-0.60 (2H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C28H29ClN7: 498.2167. found: 498.2163.

reactant | N-cyclopropyl-5-ethynylpyrimidin-2-amine | C1(CC1)NC1=NC=C(C=N1)C#C | C9H9N3
reactant | 2-(4-chloro-3-iodophenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole | ClC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)I | C19H20ClIN4
product | 5-(2-(2-Chloro-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)-N-cyclopropylpyrimidin-2-amine | ClC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)C#CC=2C=NC(=NC2)NC2CC2 | C28H28ClN7
